US06514971B1
A solution of 4-chloro-6,7-dimethoxycinnoline hydrochloride (261 mg, 1 mmol), (prepared as described for the starting material in Example 1), and 2-fluoro-5-hydroxy-4-methylaniline (170 mg, 1.2 mmol), (prepared as described for the starting material in Example 11), in 2-pentanol (5 ml) was heated at 120° C. for 3 hours. After cooling, the solid was filtered off, washed with isopropanol and ether and dried under vacuum to give 4-(2-fluoro-5-hydroxy-4-methylanilino)-6,7-dimethoxycinnoline as an hydrochloride salt (301 mg, 82%).

reactant | 4-chloro-6,7-dimethoxycinnoline hydrochloride | 1 mmol, 261 mg | Cl.ClC1=CN=NC2=CC(=C(C=C12)OC)OC
reactant | 2-fluoro-5-hydroxy-4-methylaniline | 1.2 mmol, 170 mg | FC1=C(N)C=C(C(=C1)C)O | C7H8FNO
solvent | 2-pentanol | 5 ml | CC(CCC)O | C5H12O
product | 4-(2-fluoro-5-hydroxy-4-methylanilino)-6,7-dimethoxycinnoline | FC1=C(NC2=CN=NC3=CC(=C(C=C23)OC)OC)C=C(C(=C1)C)O | C17H16FN3O3
